US07777038B2
8-Methoxy-1-methyl-1H-quinolin-2-one (21.14 g, 0.11 mol) and paraformaldehyde (10.6 g) were suspended in concentrated hydrochloric acid (105 ml), and 4 ml of concentrated sulfuric acid was added, followed by stirring at 70 to 80° C. for 2.5 hours. After cooling to room temperature, ice water was added to the reaction mixture, and extraction with dichloromethane was performed. The organic layer was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The residue was dissolved in 400 ml of chloroform, and hexamethylenetetramine (4.25 g, 0.03 mol) was added, followed by heating under reflux for 2.5 hours. After cooling to room temperature, the solvent was distilled off under reduced pressure. 50% acetic acid (110 ml) was added to the residue, and stirring was carried out at 100° C. for 2 hours. After cooling to room temperature, water was added, and the insoluble matter was collected by filtration and dried to thereby obtain 13.81 g (yield: 57%) of 8-methoxy-1-methyl-2-oxo-1,2-dihydroquinoline-5-carboxaldehyde as a light yellow powder.

reactant | 8-Methoxy-1-methyl-1H-quinolin-2-one | 0.11 mol, 21.14 g | COC=1C=CC=C2C=CC(N(C12)C)=O | C11H11NO2
reactant | paraformaldehyde | 10.6 g | C=O | CH2O
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | hexamethylenetetramine | 0.03 mol, 4.25 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | hydrochloric acid | 105 ml | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-methoxy-1-methyl-2-oxo-1,2-dihydroquinoline-5-carboxaldehyde | 13.81 g, yield: 57% | COC1=CC=C(C=2C=CC(N(C12)C)=O)C=O | C12H11NO3
